US07067520B2
200 mg of 7-chloro-5-methylthiopyrazolo[1,5-a]pyrimidine-6-carbonitrile (compound No. 62) and 100 mg of furfurylamine were reacted in 5 ml of THF in the presence of 110 mg of triethylamine for about 30 minutes, then about 30 ml of water was added thereto, and the precipitated crystals were collected by filtration, washed with water and dried to obtain crude crystals. The crude crystals were washed with ether to obtain 180 mg of 7-furfurylamino-5-methylthiopyrazolo[1,5-a]pyrimidine-6-carbonitrile (compound No. 78) having a melting point of 110° C.

reactant | 7-chloro-5-methylthiopyrazolo[1,5-a]pyrimidine-6-carbonitrile | 200 mg | ClC1=C(C(=NC=2N1N=CC2)SC)C#N | C8H5ClN4S
reactant | furfurylamine | 100 mg | C(C1=CC=CO1)N | C5H7NO
reactant | triethylamine | 110 mg | C(C)N(CC)CC | C6H15N
reactant | water | about 30 ml | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 7-furfurylamino-5-methylthiopyrazolo[1,5-a]pyrimidine-6-carbonitrile | 180 mg | C(C1=CC=CO1)NC1=C(C(=NC=2N1N=CC2)SC)C#N | C13H11N5OS
